.SubCkt GJ431CC81E105KA01 [_net1] [_net2]
.param K01=9.4851e-07
.param M01=5.0000e+08
.param L02=6.2946e-12
.param M03=6.5789e-03
.param K04=5.2838e-04
.param M04=5.9122e+00
.param K05=6.9871e-04
.param M05=8.0186e-01
.param K06=5.5502e-04
.param M06=1.4634e-01
.param K07=6.3125e-04
.param M07=2.3631e-02
.param K08=3.1257e-04
.param M08=8.6605e-03
.param L09=4.9667e-11
.param M09=6.6944e-02
.param L10=3.3029e-10
.param M10=4.3648e-02
.param K11=3.2716e-06
.param L11=7.8849e-11
.param M11=1.3412e-02
.param K12=1.7559e-06
.param L12=6.4660e-11
.param M12=1.3239e-02
.param K13=5.1346e-12
.param L13=1.5581e-10
.param M13=2.4635e+01
.param K14=1.1084e-12
.param L14=3.1658e-10
.param M14=4.1690e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GJ431CC81E105KA01

.SubCkt GJ431CC81E105JA01 [_net1] [_net2]
.param K01=9.4851e-07
.param M01=5.0000e+08
.param L02=6.2946e-12
.param M03=6.5789e-03
.param K04=5.2838e-04
.param M04=5.9122e+00
.param K05=6.9871e-04
.param M05=8.0186e-01
.param K06=5.5502e-04
.param M06=1.4634e-01
.param K07=6.3125e-04
.param M07=2.3631e-02
.param K08=3.1257e-04
.param M08=8.6605e-03
.param L09=4.9667e-11
.param M09=6.6944e-02
.param L10=3.3029e-10
.param M10=4.3648e-02
.param K11=3.2716e-06
.param L11=7.8849e-11
.param M11=1.3412e-02
.param K12=1.7559e-06
.param L12=6.4660e-11
.param M12=1.3239e-02
.param K13=5.1346e-12
.param L13=1.5581e-10
.param M13=2.4635e+01
.param K14=1.1084e-12
.param L14=3.1658e-10
.param M14=4.1690e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GJ431CC81E105JA01

.SubCkt GJ431CC81E105MA01 [_net1] [_net2]
.param K01=9.4851e-07
.param M01=5.0000e+08
.param L02=6.2946e-12
.param M03=6.5789e-03
.param K04=5.2838e-04
.param M04=5.9122e+00
.param K05=6.9871e-04
.param M05=8.0186e-01
.param K06=5.5502e-04
.param M06=1.4634e-01
.param K07=6.3125e-04
.param M07=2.3631e-02
.param K08=3.1257e-04
.param M08=8.6605e-03
.param L09=4.9667e-11
.param M09=6.6944e-02
.param L10=3.3029e-10
.param M10=4.3648e-02
.param K11=3.2716e-06
.param L11=7.8849e-11
.param M11=1.3412e-02
.param K12=1.7559e-06
.param L12=6.4660e-11
.param M12=1.3239e-02
.param K13=5.1346e-12
.param L13=1.5581e-10
.param M13=2.4635e+01
.param K14=1.1084e-12
.param L14=3.1658e-10
.param M14=4.1690e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GJ431CC81E105MA01
